US06433009B1
3.5-Diacetylbenzenesulfonamide
To a stirred solution of 3,5-diacetylaniline (3.00 grams) in a mixture of acetic acid (17 (mL) and hydrochloric acid (5.7mL) was added a solution of sodium nitrate (1.27 grams) in 2.1 mL of water. The solution was stirred for 20 minutes. 14 mL of acetic acid was saturated with sulfur dioxide gas, and this mixture was added to the reaction, followed by cuprous chloride (0.63 grams). Significant foaming occurred. The reaction mixture was stirred for one hour, diluted with water, and extracted with three portions of ethyl acetate. The combined ethyl acetate extracts were washed with water, and concentrated. The resulting oil was taken up in diethyl ether, and ammonia gas was bubbled through the solution. The resulting slurry was filtered, and the solid was taken up in acetone and filtered to remove ammonium chloride. Removal of the acetone in vacuo afforded 1.48 grams of the title compound, m.p. 179.2-180.7° C.

reactant | 3,5-diacetylaniline | 3.00 grams | C(C)(=O)C=1C=C(N)C=C(C1)C(C)=O | C10H11NO2
reactant | hydrochloric acid | 5.7mL | Cl | ClH
reactant | sodium nitrate | 1.27 grams | [N+](=O)([O-])[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2.1 mL | O | H2O
solvent | acetic acid | 14 mL | C(C)(=O)O | C2H4O2
product | 3.5-Diacetylbenzenesulfonamide | 1.48 grams | C(C)(=O)C=1C=C(C=C(C1)C(C)=O)S(=O)(=O)N | C10H11NO4S
